US07091214B2
1-[3-(6-Bromo3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one was treated according to the methods described in Parts B, C, and D of Examples 152–156. 3-Methoxypropionyl chloride was used in Part C. The crude product obtained in Part D was recrystallized from acetonitrile. The crystals were washed with cold acetonitrile and diethyl ether and dried in a vacuum oven at 60° C. to provide 1-{3-[8-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one as a light grey solid.

reactant | 1-[3-(6-Bromo3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCN1C(CCC1)=O | C16H17BrN4O3
reactant | 3-Methoxypropionyl chloride | COCCC(=O)Cl | C4H7ClO2
product | 1-{3-[8-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one | BrC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCCN3C(CCC3)=O)CCOC | C20H23BrN4O2
